US06683096B2
Preparation of 2-[4-(4-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-butyryl)-phenyl]-2-methyl-propionic acid
This compound was prepared following the procedure described in Example 152 (parts D and E) starting with 0.1 g (0.37 mmol) of 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-indole, 0.142 g (0.48 mmol) of 2-[4-(4-chlorobutyryl)-phenyl]-2-methyl-propionic acid methyl ester, 0.07 g (0.48 mmol) of potassium carbonate and 0.04 g (0.24 mmol) of potassium iodide.

reactant | 1-(2-ethoxyethyl)-3-piperidin-4-yl-1H-indole | 0.37 mmol, 0.1 g | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCNCC1 | C17H24N2O
reactant | 2-[4-(4-chlorobutyryl)-phenyl]-2-methyl-propionic acid methyl ester | 0.48 mmol, 0.142 g | COC(C(C)(C)C1=CC=C(C=C1)C(CCCCl)=O)=O | C15H19ClO3
reactant | potassium carbonate | 0.48 mmol, 0.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.24 mmol, 0.04 g | [I-].[K+]
product | 2-[4-(4-{4-[1-(2-ethoxy-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-butyryl)-phenyl]-2-methyl-propionic acid | C(C)OCCN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C | C31H40N2O4
